US06855722B2
c) Benzo[1,3]dioxol-5-yl-propynoic acid ethyl ester
The title compound was synthesized from 5-ethynyl-benzo[1,3]dioxole and 7-[2-(1H-indol-5-yloxy)-ethyl]-3,4-dihydro-2H-[1,8]naphthyridine-1-carboxylic acid tert-butyl ester using the procedure described in Example 23, step (c), in 54% yield. 1H NMR (CDCl3) δ 7.16 (dd, 1H, J=1.6, 8.1 Hz), 7.00 (d, 1H, J=1.6 Hz,), 6.80 (d, 1H, J=8.1 Hz,), 6.02 (s, 2H), 4.29 (q, 2H, J=7.2 Hz,), 1.35 (t, 3H, J=7.2 Hz).

reactant | 5-ethynyl-benzo[1,3]dioxole | C(#C)C1=CC2=C(OCO2)C=C1 | C9H6O2
reactant | 7-[2-(1H-indol-5-yloxy)-ethyl]-3,4-dihydro-2H-[1,8]naphthyridine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCCC2=CC=C(N=C12)CCOC=1C=C2C=CNC2=CC1 | C23H27N3O3
product | Benzo[1,3]dioxol-5-yl-propynoic acid ethyl ester | 54% yield | C(C)OC(C#CC1=CC2=C(OCO2)C=C1)=O | C12H10O4
